US07115611B2
324 mg (0.61 mmol) of 2-{4-[4-butyl-2-(4-trifluoromethyl-phenyl)-pyrimidin-5-ylmethoxy]-2-methyl-phenoxy}-2-methyl-propionic acid ethyl ester and 1.83 ml 1N LiOH in 3 ml terahydrofurane were stirred over night at RT. The reaction mixture was taken up in ether and washed with 1N HCl and water. The crude product was suspended in AcOEt/heptane 1:19. The resulting crystals were filtered off providing 282 mg pure 2-{4-[4-butyl-2-(4-trifluoromethyl-phenyl)-pyrimidin-5-ylmethoxy]-2-methyl-phenoxy}-2-methyl-propionic acid.

reactant | 2-{4-[4-butyl-2-(4-trifluoromethyl-phenyl)-pyrimidin-5-ylmethoxy]-2-methyl-phenoxy}-2-methyl-propionic acid ethyl ester | 0.61 mmol, 324 mg | C(C)OC(C(C)(C)OC1=C(C=C(C=C1)OCC=1C(=NC(=NC1)C1=CC=C(C=C1)C(F)(F)F)CCCC)C)=O | C29H33F3N2O4
reactant | LiOH | 1N, 1.83 ml | [Li+].[OH-]
solvent | terahydrofurane | 3 ml | O1CCCC1 | C4H8O
solvent | ether | CCOCC | C4H10O
product | 2-{4-[4-butyl-2-(4-trifluoromethyl-phenyl)-pyrimidin-5-ylmethoxy]-2-methyl-phenoxy}-2-methyl-propionic acid | 282 mg | C(CCC)C1=NC(=NC=C1COC1=CC(=C(OC(C(=O)O)(C)C)C=C1)C)C1=CC=C(C=C1)C(F)(F)F | C27H29F3N2O4
